US08809538B2
4-anilino-2-(methylthio)-5-pyrimidinecarboxylic Acid
A solution of ethyl 2-(methylthio)-4-(phenylamino)pyrimidine-5-carboxylate (4.0 g, prepared according to the reported preparation in Barvian, M.; et al. J. Med. Chem. 2000, 43, 4606) in ethanol (50 mL) was treated with 2 N lithium hydroxide (50 mL) at room temperature for 16 hours. The reaction mixture was washed with ether and then brought to pH 6 via the addition of 1 N hydrochloric acid. The resulting precipitate was collected by filtration, azeotroped with toluene and dried under vacuum to obtain the title compound (2.2 g) having the following physical data.

reactant | ethyl 2-(methylthio)-4-(phenylamino)pyrimidine-5-carboxylate | CSC1=NC=C(C(=N1)NC1=CC=CC=C1)C(=O)OCC | C14H15N3O2S
reactant | lithium hydroxide | 2 N, 50 mL | [OH-].[Li+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-anilino-2-(methylthio)-5-pyrimidinecarboxylic Acid | 2.2 g | N(C1=CC=CC=C1)C1=NC(=NC=C1C(=O)O)SC | C12H11N3O2S
